US05250569
Lemon-Flavored Aluminum Acetate Oxide Formulation
95.1 g of lemon-flavored hard candy stock was placed in an aluminum pan and heated at 210° F. to a mobile syrup. To this hot stock was added 4.90 g of a dry, finely-ground mixture containing 0.99 g of Al2O(CH3CO2)4.4H2O and 3.91 g of anhydrous glycine, C2H5NO2. The dry component was evenly distributed in the melted stock by thorough mixing and the product was poured onto a greased aluminum pan, forming a circular mass approximately 4 mm thick. As it cooled toward room temperature, it was scored with a lightly greased knife into pieces approximately 1.5 cm square. On cooling to room temperature, the squares were easily broken out of the mass. The yield was 32 pieces with an average weight of 2.5 g. The aluminum content was 1.40 mg per gram and glycine content was 39.1 mg per gram. The molar ratio of glycine to aluminum was 10 to 1. The flavor was very pleasant, without unpleasant aftertaste, but with a moderately astringent and persistant mouth-feel.

reactant | aluminum | [Al] | Al
reactant | glycine | 3.91 g | NCC(=O)O | C2H5NO2
reactant | C2H5NO2 | C(C)[N+](=O)[O-] | C2H5NO2
product | Aluminum Acetate Oxide | C(C)(=[O+][O-])[O-].[Al+3].C(C)(=[O+][O-])[O-].C(C)(=[O+][O-])[O-] | InChI=1S/3C2H4O3.Al/c3*1-2(3)5-4;/h3*3H,1H3;/q;;;+3/p-3
